.SubCkt LLL1U4R60G435ME22 _net1 _net2
.param K01=3.8100e-06
.param M01=1.1628e+07
.param L02=2.9447e-11
.param M03=3.1984e-03
.param K04=2.2297e-04
.param M04=1.1120e+01
.param K05=2.6774e-04
.param M05=1.4877e+00
.param K06=2.5879e-04
.param M06=1.7909e-01
.param K07=3.9960e-04
.param M07=1.4300e-02
.param K08=2.9076e-04
.param M08=4.7512e-03
.param L09=2.2937e-11
.param M09=3.7609e-02
.param L10=1.4019e-10
.param M10=1.6381e-02
.param K11=2.4649e-05
.param L11=1.1543e-11
.param M11=1.7001e-03
.param K12=6.4275e-06
.param L12=2.0621e-11
.param M12=3.3559e-03
.param K13=2.8393e-11
.param L13=1.3546e-11
.param M13=4.3296e-01
.param K14=2.4455e-12
.param L14=1.8058e-11
.param M14=1.0000e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
C11 _net1011 _net1112 'K11'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net2 'K14'
L14 _net1314 _net2 'L14'
R14 _net1314 _net2 'M14'
.ends 

.SubCkt LLL1U4D80E435ME22 _net1 _net2
.param K01=3.8100e-06
.param M01=1.1628e+07
.param L02=2.9447e-11
.param M03=3.1984e-03
.param K04=2.2297e-04
.param M04=1.1120e+01
.param K05=2.6774e-04
.param M05=1.4877e+00
.param K06=2.5879e-04
.param M06=1.7909e-01
.param K07=3.9960e-04
.param M07=1.4300e-02
.param K08=2.9076e-04
.param M08=4.7512e-03
.param L09=2.2937e-11
.param M09=3.7609e-02
.param L10=1.4019e-10
.param M10=1.6381e-02
.param K11=2.4649e-05
.param L11=1.1543e-11
.param M11=1.7001e-03
.param K12=6.4275e-06
.param L12=2.0621e-11
.param M12=3.3559e-03
.param K13=2.8393e-11
.param L13=1.3546e-11
.param M13=4.3296e-01
.param K14=2.4455e-12
.param L14=1.8058e-11
.param M14=1.0000e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
C11 _net1011 _net1112 'K11'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net2 'K14'
L14 _net1314 _net2 'L14'
R14 _net1314 _net2 'M14'
.ends 
